US09085583B2
To a mixed solution of dimethyl sulfoxide and water (20 mL), 2-iodobenzenamine (3.0 g, 13.7 mmol), ethyl 3-oxobutanoate (2.0 g, 15.1 mmol), copper(I) oxide (0.2 g, 1.4 mmol) and cesium carbonate (4.5 g, 13.7 mmol) was added. The mixture was stirred at 100° C. for 9 hours under nitrogen gas atmosphere. The reaction mixture was filtered through a pad of celite. The filtrate was diluted with water and extracted with ethyl acetate. The organic phase was concentrated in vacuo, and then the residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1) to give ethyl 2-methyl-1H-indole-3-carboxylate as a light yellow solid (0.42 g, 15%). 1H NMR (300 MHz, CDCl3): δ 8.12-8.09 (m, 1H), 7.31-7.16 (m, 3H), 4.40 (q, J=6.9 Hz, 2H), 2.77 (s, 3H), 1.45 (t, J=6.9 Hz, 3H).

reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | 2-iodobenzenamine | 13.7 mmol, 3.0 g | IC1=C(C=CC=C1)N | C6H6IN
reactant | ethyl 3-oxobutanoate | 15.1 mmol, 2.0 g | O=C(CC(=O)OCC)C | C6H10O3
reactant | cesium carbonate | 13.7 mmol, 4.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(I) oxide | 1.4 mmol, 0.2 g | [Cu-]=O
solvent | water | 20 mL | O | H2O
product | ethyl 2-methyl-1H-indole-3-carboxylate | 0.42 g, 15% | CC=1NC2=CC=CC=C2C1C(=O)OCC | C12H13NO2
